US08003785B2
A mixture of 0.075 g (0.129 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-benzoic acid (I-194), 4 mL of dimethylformamide, 0.0654 g (0.167 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 0.12 mL (0.689 mmole) of diisopropylethylamine was stirred for 20 minutes, then 0.0159 g (0.297 mmole) of ammonium chloride was added. The reaction mixture was stirred for 1.5 hours and then 150 mL of ethyl acetate and 25 mL of water was added. The organic layer was washed with 25 mL of ammonium chloride solution, 25 mL of water, 25 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.0346 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-benzamide (I-203).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-benzoic acid | 0.129 mmole, 0.075 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)CC | C22H25F2N5O3
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.167 mmole, 0.0654 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 0.689 mmole, 0.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.297 mmole, 0.0159 g | [Cl-].[NH4+]
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-benzamide | 0.0346 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N)C=C2)C | C21H24F2N6O2
